US06639068B1
1.01 g of sodium acetate was dissolved in a mixture of 1 ml of water and 5 ml of methanol, and 5.0 g of cefpodoxime was added thereto, followed by addition of 15 ml of N,N-dimethylacetamide. The mixture was stirred at room temperature for 30 minutes and then, 100 ml of acetone was added thereto. The solution was stirred for 20 minutes and filtered. The filtered solid was washed with 50 ml of acetone and then with 30 ml of isopropyl ether, and vacuum-dried at room temperature to give 5.04 g of pale yellow cefpodoxime sodium salt (yield: 96%).

reactant | sodium acetate | 1.01 g | C(C)(=O)[O-].[Na+]
reactant | cefpodoxime | 5.0 g | COCC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)/C(=N\OC)/C3=CSC(=N3)N)SC1)C(=O)O | C15H17N5O6S2
reactant | N,N-dimethylacetamide | 15 ml | CN(C(C)=O)C | C4H9NO
reactant | acetone | 100 ml | CC(=O)C | C3H6O
solvent | water | 1 ml | O | H2O
solvent | methanol | 5 ml | CO | CH4O
product | cefpodoxime sodium salt | 5.04 g, yield: 96% | COCC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)/C(=N\OC)/C3=CSC(=N3)N)SC1)C(=O)[O-].[Na+] | InChI=1S/C15H17N5O6S2.Na/c1-25-3-6-4-27-13-9(12(22)20(13)10(6)14(23)24)18-11(21)8(19-26-2)7-5-28-15(16)17-7;/h5,9,13H,3-4H2,1-2H3,(H2,16,17)(H,18,21)(H,23,24);/q;+1/p-1/b19-8-;/t9-,13-;/m1./s1
